US06383579B1
Synthesis of 4-fluorocinnamic acid
A mixture of 0.1 mol 4-fluorobenzaldehyde, 0.15 mol malonic acid, and 0.1 ml piperidine in 30 ml pyridine is boiled for 10 hours, cooled, and treated with 150 ml HCl having a 10% concentration. The precipitate is filtered and crystallized with ethanol. The yield of 4-fluorocinnamic acid is 68% and the melting point is 211° C.

reactant | 4-fluorobenzaldehyde | 0.1 mol | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | malonic acid | 0.15 mol | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 0.1 ml | N1CCCCC1 | C5H11N
reactant | HCl | 150 ml | Cl | ClH
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 4-fluorocinnamic acid | FC1=CC=C(C=CC(=O)O)C=C1 | C9H7FO2
